US07262185B2
To a solution of methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (2.0 g) and pyridine (4.0 ml) in THF (40 ml) were added methanesulfonic acid anhydride (4.4 g) at 0° C., and the mixture was stirred for 18 hours at 60° C. To the reaction solution was added water and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the obtained residue was purified by column chromatography (ethyl acetate:hexane 1:2), to give methyl 7-[4-(2-butoxyethoxy)phenyl]-1-methanesulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate (1.94 g) as yellow amorphous.

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 2.0 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C24H29NO4
reactant | pyridine | 4.0 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonic acid anhydride | 4.4 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-methanesulfonyl-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 1.94 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2S(=O)(=O)C)C(=O)OC)C1 | C25H31NO6S
